data/mechanisms/records/IMS8-EQ8.69.json
{"mechanism_id": "IMS8-EQ8.69", "species": [{"species_id": "n_ionized_methylenedioxy_lactone_alkaloid", "mapped_smiles": "[CH3:2][N+:1]1[CH2:3][CH2:4][C:5]2=[CH:11][CH:9]([OH:10])[CH:8]3[O:12][C:13](=[O:14])[c:20]4[cH:19][c:18]5[O:23][CH2:21][O:22][c:17]5[cH:16][c:15]4[CH:7]3[CH:6]12", "role": "precursor_ion", "charge": 1, "radical_electrons": 1, "spin_multiplicity": 2, "detected": false}, {"species_id": "hydroxyethylidene_pyrrolinium_ion_mz125", "mapped_smiles": "[CH3:2][N+:1]1=[CH:6][C:5](=[CH:11][CH:9][OH:10])[CH2:4][CH2:3]1", "role": "product_ion", "charge": 1, "radical_electrons": 1, "spin_multiplicity": 2, "detected": true}, {"species_id": "methylenedioxy_isocoumarin_neutral", "mapped_smiles": "[O:12]1[C:13](=[O:14])[c:20]2[cH:19][c:18]3[O:23][CH2:21][O:22][c:17]3[cH:16][c:15]2[CH:7]=[CH:8]1", "role": "neutral_loss", "charge": 0, "radical_electrons": 0, "spin_multiplicity": 1, "detected": false}], "states": [{"state_id": "state_precursor", "species_ids": ["n_ionized_methylenedioxy_lactone_alkaloid"]}, {"state_id": "state_products", "species_ids": ["hydroxyethylidene_pyrrolinium_ion_mz125", "methylenedioxy_isocoumarin_neutral"]}], "steps": [{"step_id": "step_double_ring_cleavage_to_mz125", "from_state": "state_precursor", "to_state": "state_products", "step_class": "alpha_cleavage", "semantics": "formal_arrow_step", "electron_moves": [{"source": {"type": "atom", "atom_maps": [1]}, "target": {"type": "bond", "atom_maps": [1, 6]}, "electron_count": 1}, {"source": {"type": "bond", "atom_maps": [6, 7]}, "target": {"type": "bond", "atom_maps": [1, 6]}, "electron_count": 1}, {"source": {"type": "bond", "atom_maps": [6, 7]}, "target": {"type": "bond", "atom_maps": [7, 8]}, "electron_count": 1}, {"source": {"type": "bond", "atom_maps": [8, 9]}, "target": {"type": "bond", "atom_maps": [7, 8]}, "electron_count": 1}, {"source": {"type": "bond", "atom_maps": [8, 9]}, "target": {"type": "atom", "atom_maps": [9]}, "electron_count": 1}], "reaction_smirks": null, "reversible": false}], "evidence": [{"evidence_id": "evidence_step_double_ring_cleavage", "source_id": "mclafferty_ims_4e", "target_type": "step", "target_id": "step_double_ring_cleavage_to_mz125", "support_type": "textbook_proposed", "locator": {"page": 189, "equation": "8.69", "section": "8.9 Decompositions of cyclic structures"}, "confidence": 0.8, "curator_note": "Book draws 4 arc(s); moves <1,2,3,4> are drawn, move <5> is an implicit homolysis hook required for electron balance (not drawn on the page). Drawn arc 1 = the fishhook printed straight after 'CH3N+.', carrying the nitrogen odd electron into the N(1)-C(6) bond; drawn arc 2 = the arc left of C(6) whose tail sits on the C(6)-C(7) bond and whose fishhook head points back at N(1)-C(6), raising it to N+=C(6); drawn arcs 3 and 4 both point at the C(7)-C(8) bond -- arc 3 has its tail on the C(6)-C(7) bond, arc 4 has its tail on the C(8)-C(9) bond -- so C(7)-C(8) rises from single to double and becomes the CH=CH of the printed isocoumarin. The undrawn move 5 leaves the second electron of the cleaved C(8)-C(9) bond on C(9); the book simply prints the radical dot on that carbinol carbon in the m/z 125 product. Two sigma bonds are cut, C(6)-C(7) and C(8)-C(9), which is what detaches the whole aryl-lactone half of the alkaloid. UNDRAWN COMPANION CHANNELS ON THE SAME EQUATION: the page also prints the complementary charge-retention product, the same aryl-lactone fragment as a radical cation at m/z 190, and its subsequent '-CO' step to m/z 162; neither is given any electron-pushing arrow and no structure is drawn for m/z 162, so neither is encoded here."}], "ms_context": {"ionization_method": "EI", "polarity": "positive", "adduct": "[M]+•", "activation_method": "70 eV EI", "collision_energy": null, "electron_energy_ev": 70.0, "precursor_mz": 315.1096, "precursor_charge": 1, "instrument_type": "unspecified"}, "peak_assignments": [{"peak_id": "peak_125", "species_id": "hydroxyethylidene_pyrrolinium_ion_mz125", "step_id": "step_double_ring_cleavage_to_mz125", "observed_mz": 125.083, "hydrogen_shift": 0, "isotope_offset": 0, "status": "proposed", "confidence": 0.85}], "curation": {"schema_version": "1.0.0", "record_version": 1, "extraction_method": "vision_multiagent", "review_status": "unreviewed", "created_at": "2026-07-27T00:00:00Z", "modified_at": "2026-07-27T00:00:00Z"}}
